US08247430B2
3,3-dimethyl-6-nitroindoline
1-(3,3-Dimethyl-6-nitro-2,3-dihydro-indol-1-yl)ethanone (1.8 g) was dissolved in EtOH (50 mL), 12N HCl (50 mL) was added and the resulting mixture was heated at 70° C. overnight. After the mixture was concentrated in vacuo, it was partitioned between saturated NaHCO3 solution and EtOAc, the resulting organic layer was dried over MgSO4, filtered and concentrated in vacuo to afford a yellow solid. MS: 193 (M+1). Calc'd. for C10H12N2O2—192.21.

reactant | 1-(3,3-Dimethyl-6-nitro-2,3-dihydro-indol-1-yl)ethanone | 1.8 g | CC1(CN(C2=CC(=CC=C12)[N+](=O)[O-])C(C)=O)C | C12H14N2O3
reactant | HCl | 12N, 50 mL | Cl | ClH
solvent | EtOH | 50 mL | CCO | C2H6O
product | 3,3-dimethyl-6-nitroindoline | CC1(CNC2=CC(=CC=C12)[N+](=O)[O-])C | C10H12N2O2
